US09029409B2
A 100 mL sealed tube was charged with N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride (0.15 g, 0.32 mmol, Preparation #K.1), triethyl amine (0.163 g, 1.6 mmol, Sd Fine Chem), and ethyl cyanoacetate (0.54 mL, 4.8 mmol). The reaction mixture was heated at about 150° C. for about 12 h, cooled to RT and water (15 mL) was added. The product was extracted with EtOAc (2×15 mL). The combined organic layer was dried over sodium sulphate and concentrated under reduced pressure. The crude material obtained was purified by preparative HPLC (Table 2, Method d) to afford 6-(5-(1-(2-cyanoacetyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide as an off white solid 0.065 g (40.8%). LC/MS (Table 1, Method c) Rt=1.38 min; MS m/z: 495.3 (M+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride | 0.32 mmol, 0.15 g | Cl.FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2CCNCC2)C)C=C1)OC
reactant | triethyl amine | 1.6 mmol, 0.163 g | C(C)N(CC)CC | C6H15N
reactant | ethyl cyanoacetate | 4.8 mmol, 0.54 mL | C(#N)CC(=O)OCC | C5H7NO2
solvent | water | 15 mL | O | H2O
product | 6-(5-(1-(2-cyanoacetyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | C(#N)CC(=O)N1CCC(CC1)C1CC(=NO1)C1=CC(=NC(=N1)C)C(=O)NCC1=CC(=C(C=C1)F)OC | C25H27FN6O4
